US06489344B1
1 mmol of N-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]acetamide and 2 mmol of Lawesson's reagent were stirred in 2 ml of DME at 80° C. The reaction mixture was concentrated in vacuo and diluted with water and ethyl acetate. The solution was extracted three times with ethyl acetate, dried over sodium sulfate, and purified by column chromatography eluting with 5-10% methanol/methylene chloride to obtain 1-{[2-({2-[(6-amino-5-nitro(2-pyridyl))-amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]amino}ethane-1-thione.

reactant | N-[2-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]acetamide | 1 mmol | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)NC(C)=O)[N+](=O)[O-] | C19H18Cl2N8O3
reactant | Lawesson's reagent | 2 mmol | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | DME | 2 ml | COCCOC | C4H10O2
product | 1-{[2-({2-[(6-amino-5-nitro(2-pyridyl))-amino]ethyl}amino)-4-(2,4-dichlorophenyl)pyrimidin-5-yl]amino}ethane-1-thione | NC1=C(C=CC(=N1)NCCNC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)NC(C)=S)[N+](=O)[O-] | C19H18Cl2N8O2S
